US06166219
N-1-butanesulfonyl-3-(2,4-dichlorobenzylamino)-4-nitrobenzamide (0.505 g) was added to a mixture of 1.32 g of sodium hydrosulfite, 1 ml of ethanol, 1 ml of tetrahydrofuran and 1 ml of water at room temperature. The mixture was heat-refluxed for 40 minutes. The solvent was distilled off under reduced pressure, and water was added to the residue. The solid material precipitated was collected, and was dried. Further, the resulting material was washed with a mixed solution of 10 ml of methanol and 3 ml of water, and was dried to give 0.220 g of N-1-butanesulfonyl-4-amino-3-(2,4-dichlorobenzylamino)benzamide.

reactant | N-1-butanesulfonyl-3-(2,4-dichlorobenzylamino)-4-nitrobenzamide | 0.505 g | C(CCC)S(=O)(=O)NC(C1=CC(=C(C=C1)[N+](=O)[O-])NCC1=C(C=C(C=C1)Cl)Cl)=O | C18H19Cl2N3O5S
reactant | sodium hydrosulfite | 1.32 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | N-1-butanesulfonyl-4-amino-3-(2,4-dichlorobenzylamino)benzamide | 0.220 g | C(CCC)S(=O)(=O)NC(C1=CC(=C(C=C1)N)NCC1=C(C=C(C=C1)Cl)Cl)=O | C18H21Cl2N3O3S
